US08193228B2
1-[2,3-difluoro-4-(5-fluoropyridin-2-yl)phenyl]-2,2-difluoroethanone
1 M Aqueous sodium hydroxide (1 mL, 1 mmol) was added to a solution of diethyl {2-[2,3-difluoro-4-(5-fluoropyridin-2-yl)phenyl]-1,1-difluoro-2-oxoethyl}phosphonate (872 mg, 2 mmol) in methanol (8 mL) at room temp. After stirring at rt for 30 min, the reaction was quenched with 1 N hydrochloric acid. The reaction mixture was extracted with ethyl acetate washed with saturated aqueous sodium bicarbonate and brine, dried (sodium sulfate) and concentrated. Chromatography over silica eluting with 0-60% ethyl acetate/hexane afforded the title compound as a white solid.

reactant | sodium hydroxide | 1 mmol, 1 M, 1 mL | [OH-].[Na+]
reactant | diethyl {2-[2,3-difluoro-4-(5-fluoropyridin-2-yl)phenyl]-1,1-difluoro-2-oxoethyl}phosphonate | 2 mmol, 872 mg | FC1=C(C=CC(=C1F)C1=NC=C(C=C1)F)C(C(F)(F)P(OCC)(OCC)=O)=O | C17H15F5NO4P
solvent | methanol | 8 mL | CO | CH4O
product | 1-[2,3-difluoro-4-(5-fluoropyridin-2-yl)phenyl]-2,2-difluoroethanone | FC1=C(C=CC(=C1F)C1=NC=C(C=C1)F)C(C(F)F)=O | C13H6F5NO
